US08476300B2
1-(2-(4-(2-(5-isopropylthiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine
Add 2-(5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophen-2-yl)propan-2-ol (84 mg; 0.16 mmol), triethylsilane (1.7 mL) and dichloromethane (0.85 mL) to a flask under argon. Add trifluoroacetic acid (0.81 mL) and stir the resulting mixture for 45 minutes. Load the mixture onto an SCX acidic ion exchange column. Flush the column with 1:2 methanol/dichloromethane and elute with 1:2 2M ammonia in methanol/dichloromethane. Concentrate the ammonia containing eluent in vacuo to give the title compound (73.1 mg; 0.15 mmol): Mass spectrum (m/z): 502 (M+1).

reactant | 2-(5-(6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl)thiophen-2-yl)propan-2-ol | 0.16 mmol, 84 mg | COC=1C=C2C=CC(=C(C2=CC1)OC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(S1)C(C)(C)O | C31H35NO4S
reactant | triethylsilane | 1.7 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 0.81 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.85 mL | ClCCl | CH2Cl2
product | 1-(2-(4-(2-(5-isopropylthiophen-2-yl)-6-methoxynaphthalen-1-yloxy)phenoxy)ethyl)piperidine | 0.15 mmol, 73.1 mg | C(C)(C)C1=CC=C(S1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(OCCN2CCCCC2)C=C1 | C31H35NO3S
